US08975398B2
N-[4-(phenylcarbamoyl)phenyl]-1-(pyridazin-3-yl)azetidine-3-carboxamide
The title compound was prepared as described in Example 1A, substituting aniline for tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate and 4-(1-(pyridazin-3-yl)azetidine-3-carboxamido)benzoic acid for 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid. 1 H NMR (400 MHz, DMSO-d6/D2O) δ ppm 8.53 (dd, J=4.4, 1.3 Hz, 1H), 7.98-7.92 (m, 2H), 7.77-7.65 (m, 5 H), 7.38-7.24 (m, 3 H), 7.15-7.07 (m, 1H), 4.49 (t, J=9.0 Hz, 2H), 4.46-4.38 (m, 2H), 4.00-3.81 (m, 1H); MS (ESI(+)) m/e 374 (M+H)+.

reactant | tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate | NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H24N2O3
reactant | 4-(1-(pyridazin-3-yl)azetidine-3-carboxamido)benzoic acid | N1=NC(=CC=C1)N1CC(C1)C(=O)NC1=CC=C(C(=O)O)C=C1 | C15H14N4O3
reactant | 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)O | C12H13NO4
product | N-[4-(phenylcarbamoyl)phenyl]-1-(pyridazin-3-yl)azetidine-3-carboxamide | C1(=CC=CC=C1)NC(=O)C1=CC=C(C=C1)NC(=O)C1CN(C1)C=1N=NC=CC1 | C21H19N5O2
